Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
aphasia, left MCA stroke
 
Major Surgical ___ Invasive Procedure:
none
 
History of Present Illness:
___ with h/o hyperlipidemia, HTN presenting w/ confusion, R 
sided facial weakness, severe dysarthria, mild-mod aphasia, 
quadrantanopsia (R lateral inferior visual field cut), NIHSS 7. 
Last reported well at 6:30pm when talking on the phone with his 
son, 7 hours prior to arrival at ___. At that time he was 
reportedly coherent, easy to understands. Earlier that day he 
was playing golf with his friends until 2pm, none of whom 
expressed any concern. Around midnight, patient showed up at his 
daughter's house which is located about 1 mile away. It appeared 
that he walked to the daughter's house, she noted him to have a 
cut on his forehead and his pants were soiled over his knees as 
if he has fallen to the knees. He was noted to have word finding 
difficulty, he was pronouncing some words clearly, other words 
seemed to be mumbled. He was also having difficulty w/ balance, 
but was able to ambulate independently. EMS was called and 
patient was taken to OSH where ___/CTA was notable for 
occlusion in the M3 segment of L MCA. Patient was transferred 
here for further evaluation. 

 
Past Medical History:
HTN - remote history, previously on medications, now only 
lifestyle modifications
Hyperlipidemia
 
Social History:
___
Family History:
FAMILY HISTORY: No known h/o stroke, bleeding ___ clotting 
disorders. No h/o seizures.
  
 
Physical Exam:
ADMISSION:
PHYSICAL EXAMINATION
 General:  NAD
 HEENT: NCAT,  no oropharyngeal lesions, neck supple
 ___: RRR, no M/R/G
 Pulmonary: CTAB, no crackles ___ wheezes
 Abdomen: Soft, NT, ND, +BS, no guarding
 Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to name and date of 
birth, unable to state date, month, year, day of the week. 
Displays perseverance. Continues to repeat 80 when asked about 
date. Unable to relate history. Able to name months of the year 
forwards, but unable to name ___ backwards. + Dysarthria. 
Intermittently speech is fluent for some words, but at times 
words are difficult to understand. Word finding difficulty. Able 
to name all activities on the picture, but unable to name 
objects on the following picture. When asked to name ___ glove, he 
would continue describing what is happening on the previously 
shown picture. Normal prosody. Unable to register/repeat 3 
objects and recall ___ at 5 minutes. No apraxia. No evidence of 
hemineglect. Possible left-right confusion - unable to follow 
simple commands. Unable to follow both midline ___ appendicular 
commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. Mild facial asymmetry. Hearing intact to finger rub 
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength 
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. Slight tremor b/l.

   [Delt][Bic][Tri] [IO][IP][Quad][Ham][TA][Gas]
 L   5     5    5    5   5    5     5    5   5     
 R   4+    4+   4+   4+  4+   4+    4+   4   5    

Patient not following commands, thus unable to assess finger 
extension ___ flexion, ___. 

  
 - Reflexes: 
    [Bic] [Tri] [___] [Quad] [Gastroc]
  L  2+    2+     2+      2+       1
  R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, ___ proprioception 
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait: Normal initiation. Narrow base. Normal stride length and 
arm swing. Stable without sway. Negative Romberg.

DISCHARGE:
General: Appears younger than stated age, sitting in chair with 
daughter at bedside.
Lungs: breathing comfortably on room air
CV: well-perfused
Abd: soft, non-distended
Ext: non-edematous

Neuro exam:
Mental status: Alert, awake, regards examiner, participates with 
exam. Expressive aphasia, speaks in ___ word sentences but did 
say ___ "I hope so."  Sings happy birthday fluently and 
today he is able to substitute "Good morning to you"  to tune. 
Follows commands . 
CN: Pupils 4->2 bilaterally. 4 beats of end-gaze nystagmus on 
left lateral gaze, extinguishable. No nystagmus on right. Subtle 
saccadic pursuit. Tongue protrusion midline. Palate elevation 
symmetric. No facial weakness but subtle decrease in right NLF 
at rest. Right visual field cut.
Motor: Deltoid, triceps 5 b/l. Biceps difficult to assess ___ BP 
cuff. L: Hip flexor 5, Quad 5, hamstring 5. R Hip flex 4+. 
hamstring 5
Reflexes: Deferred
Sensation: intact to light touch
Coordination: deferred
Gait: Walks with hesitancy with walker, able to maintain balance 
while waving to me in the hall

 
Pertinent Results:
___ 06:15AM BLOOD WBC-7.7 RBC-4.67 Hgb-14.2 Hct-41.8 MCV-90 
MCH-30.4 MCHC-34.0 RDW-12.3 RDWSD-40.2 Plt ___
___ 06:35AM BLOOD WBC-9.2 RBC-4.61 Hgb-14.4 Hct-41.6 MCV-90 
MCH-31.2 MCHC-34.6 RDW-12.5 RDWSD-41.1 Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Glucose-96 UreaN-24* Creat-1.0 Na-143 
K-4.0 Cl-103 HCO3-25 AnGap-15
___ 01:55AM BLOOD Lipase-78*
___ 06:35AM BLOOD Calcium-9.1 Phos-3.1 Mg-2.1
___ 01:55AM BLOOD Triglyc-131 HDL-46 CHOL/HD-2.9 LDLcalc-62
___ 01:55AM BLOOD TSH-4.6*
___ 06:35AM BLOOD Free T4-1.0

IMAGING:
Imaging:
MRI/MRA Brain:
1. Acute infarcts within the vascular territory of the left 
middle cerebral artery, with the most dominant area of 
infarction within the left inferior parietal lobule.  No 
evidence of hemorrhagic transformation. 
2. Loss of flow related enhancement within a left MCA M3 branch 
as seen on CTA from the same date, and likely other more distal 
areas of occlusion given the area of infarct. 
3. Mild intracranial internal carotid artery atherosclerosis, 
without 
high-grade stenosis. 
4. Additional findings described above. 
  
RIGHT: 
The right carotid vasculature has mild heterogeneous 
atherosclerotic plaque. 
The peak systolic velocity in the right common carotid artery is 
58 cm/sec. 
The peak systolic velocities in the proximal, mid, and distal 
right internal 
carotid artery are 33, 50, and 55 cm/sec, respectively. The peak 
end 
diastolic velocity in the right internal carotid artery is 16 
cm/sec. 
The ICA/CCA ratio is 0.9. 
The external carotid artery has peak systolic velocity of 73 
cm/sec. 
The vertebral artery is patent with antegrade flow. 
  
LEFT: 
The left carotid vasculature has moderate heterogeneous 
atherosclerotic 
plaque. 
The peak systolic velocity in the left common carotid artery is 
75 cm/sec. 
The peak systolic velocities in the proximal, mid, and distal 
left internal 
carotid artery are 56, 42, and 39 cm/sec, respectively. The peak 
end 
diastolic velocity in the left internal carotid artery is 17 
cm/sec. 
The ICA/CCA ratio is 0.7. 
The external carotid artery has peak systolic velocity of 82 
cm/sec. 
The vertebral artery is patent with antegrade flow. 
  
IMPRESSION:  
  
Atherosclerotic plaque within both carotid arteries with less 
than 40% 
stenosis bilaterally. 

 
Brief Hospital Course:
___ year old  man with h/o hyperlipidemia, hypertension who 
presented with expressive aphasia, dysarthria, right-sided 
facial weakness and right lateral inferior visual field cut, 
found to have acute ischemic infarct in left M3 MCA, outside 
window for tPA and not candidate for thrombectomy due to distal 
location of clot. Imaging notable for an acute left MCA infarct 
with mild intracranial ICA atherosclerosis and loss of flow 
within left M3 MCA branch.  Etiology likely secondary to 
artery-to-artery occlusion vs cardio-embolic. 

Stroke risk factors: HbA1C 5.4, LDL 62

He had no irregular events on telemetry during his hospital 
course. 
His exam was notable for expressive aphasia with some conductive 
aphasia, specifically with difficulty following complex 
commands. He also has a right visual field deficit. Otherwise, 
non-focal exam. 

We started him on DAPT with clopidogrel and aspirin with plan to 
discontinue clopidogrel in 3 months and maintain him on aspirin 
alone. He was also started on atorvastatin 40 mg in place of his 
home simvastatin 20 mg. 

# Left M3 MCA
- Carotid U/S: <45% occlusion bilaterally
- ASA 81, clopidogrel 75 mg for 3 months, then ASA alone
- atorvastatin 40 (new on admission)
- stroke risk factors: HbA1C 5.4%, LDL 62
- TSH 4.6, free T4 1.1
- dispo to acute rehab, will need stroke f/u

# Rule-out cardio-embolic etiology:
 - ECHO: suboptimal image, no clot, left atrial size 4.1
 - ZIO patch on discharge to eval for arrhythmia

TRANSITIONAL ISSUES:
- DISCONTINUE CLOPIDOGREL IN 3 MONTHS, CONTINUE ASPIRIN ALONE
- FOLLOW UP WITH CARDIOLOGY/ECHO LAB FOR HOLTER MONITOR ___ 
ZIO-PATCH ___ OF 
  HEARTS MONITOR FOR ___ WEEKS TO EVALUATE FOR ARRYTHMIAS
- WILL NEED TO FOLLOW UP WITH STROKE NEUROLOGY AT ___
- CONTINUE SPEECH THERAPY, CAN SING SENTENCES TO HAPPY BIRTHDAY 
TUNE
- HAS RIGHT VISUAL FIELD DEFICIT, SAFETY PRECAUTIONS WITH 
AMBULATION

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? ()x Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? () Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? () Yes - () No  
 4. LDL documented? (x) Yes (LDL =62 ) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg ___ 80 mg, 
rosuvastatin 20mg ___ 40mg, for LDL > 70) (x) Yes - () No
 6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally ___ 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation ___ rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) ___ pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? () Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 ===============
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY 
STOP IN 3 MONTHS (___)  
4.  Heparin 5000 UNIT SC BID 
Re-evaluate per mobility in ___  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left MCA ischemic stroke

 
Discharge Condition:
Mental Status: Alert but aphasic, can sing what he means to 
tunes sometimes
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 You were hospitalized due to symptoms of difficulty speaking 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 high cholesterol
 
We are changing your medications as follows:  
START: ATORVASTATIN 40MG
STOP: SIMVASTATIN
START: ASPIRIN 81 MG, CLOPIDOGREL 75MG EVERY DAY FOR 3 MONTHS 
THEN STOP TAKING CLOPIDOGREL AND TAKE ASPIRIN 81MG ALONE.

Please call ___ to get a ZIO PATCH to monitor your heart 
for arrythmias. Heart arrythmias can increase your risk of 
future stroke and we would like to continue to monitor your 
heart at home to determine if you are at risk for arrythmias. We 
did not detect an arrythmia while you were in the hospital.

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial ___ complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team 
 
Followup Instructions:
___